US09062092B2
Compound 43e. 2-{(E)-2-[2-((R)-1-tert-Butoxycarbonylamino-ethyl)-quinolin-7-yl]-vinyl}[1,4]dioxane-2-carboxylic acid methyl ester
A solution of [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-carbamic acid tert-butyl ester (316 mg, 0.9 mmol), 2-vinyl-[1,4]dioxane-2-carboxylic acid methyl ester (154 mg, 0.9 mmol), palladium(II) acetate (41 mg, 0.18 mmol), tri(o-tolyl)phosphine (54 mg, 0.18 mmol) and N,N-dicyclohexylmethylamine (351 mg, 0.38 mL, 1.8 mmol) in acetonitrile (8 mL) was heated at 120° C. in a microwave reactor for 30 minutes. The reaction mixture was filtered and the solvent was evaporated. The residue was dissolved in dichloromethane; brine and ice-cold 1 M hydrochloric acid were added to acidify the mixture to pH 2. The organic layer was separated and washed with brine. The organic solution was filtered through a hydrophobic frit and the filtrate was evaporated. The residue was purified by silica gel chromatography using a gradient of iso-hexanes/ethyl acetate 7:3 to 6:4 to afford the title compound (157 mg, 40%) as a yellow gum and as a 1:1 mixture of diastereoisomers. LCMS (m/z) 443.1 [M+H], Tr=2.34 min.

reactant | [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-carbamic acid tert-butyl ester | 0.9 mmol, 316 mg | C(C)(C)(C)OC(N[C@H](C)C1=NC2=CC(=CC=C2C=C1)Br)=O | C16H19BrN2O2
reactant | 2-vinyl-[1,4]dioxane-2-carboxylic acid methyl ester | 0.9 mmol, 154 mg | COC(=O)C1(OCCOC1)C=C | C8H12O4
reactant | tri(o-tolyl)phosphine | 0.18 mmol, 54 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | N,N-dicyclohexylmethylamine | 1.8 mmol, 0.38 mL, 351 mg | C1(CCCCC1)CNCC1CCCCC1 | C14H27N
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
catalyst | palladium(II) acetate | 0.18 mmol, 41 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-{(E)-2-[2-((R)-1-tert-Butoxycarbonylamino-ethyl)-quinolin-7-yl]-vinyl}[1,4]dioxane-2-carboxylic acid methyl ester | 157 mg, 40% | COC(=O)C1(OCCOC1)\C=C\C1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)OC(C)(C)C | C24H30N2O6
